*Razavi Fundamentals Microelectronics CMOS Models
*Technology CMOS 180nm 

.MODEL nch NMOS LEVEL = 1
+kp=100u vto=0.4 
+gamma=0.4 lambda=0.1
+phi=0.3 tox=40e-10
+cgso = 9.548e-10 cgdo = 9.548e-10
+cj=9.81e-4 cjsw=1.19e-10
+mjsw=0 mj=0

.MODEL pch PMOS LEVEL = 1
+kp=50u vto=-0.4 
+gamma=0.4 lambda=0.1
+phi=0.3 tox=40e-10
+cgso = 9.548e-10 cgdo = 9.548e-10
+cj=9.81e-4 cjsw=1.19e-10
+mjsw=0 mj=0

.subckt xnch D G S B
 
.param l=0.18u w=2u m=1
.param wd = 0.48e-6
.param ad = 'w*wd'
.param as = 'w*wd'
.param ps = '2*w+2*wd'
.param pd = '2*w+2*wd'

 
M1 D G S B nch l=l w=w ad=ad as=as pd=pd ps=ps m=m
.ends


.subckt xpch D G S B
 
.param l=0.18u w=2u m=1
.param wd = 0.48e-6
.param ad = 'w*wd'
.param as = 'w*wd'
.param ps = '2*w+2*wd'
.param pd = '2*w+2*wd'

 
M1 D G S B pch l=l w=w ad=ad as=as pd=pd ps=ps m=m
.ends