***********************************************
****gf180mcuD transistor models for ltspice****
***********************************************
*Minor changes to sm141064.ngspice to make it work
*Import xnch.asy and xpch.asy symbols
*Change the subcircuit definition to the desired transistor
*
* To use add the following libraries to Ltspice
*.include design.ngspice
*.lib "sm141064.ngspice" <corner>
*.lib gf180mcuD_ltspice.lib
*
*Corner can be: typical, ss, ff, sf, fs, statistical
*
*
*****Monte Carlo Simulations********************
*The PDK allows to simulate mismatch and/or process variation:
************************************************
*Process variation and mismatch:
*.lib "sm141064.ngspice" statistical
*.param sw_stat_global=1
*.param sw_stat_mismatch=1
*.param mc_skew = 3
*.param res_mc_skew = 3
*.param cap_mc_skew = 3
*.param fnoicor = 0
*Note you need to comment or remove .include design.ngspice
************************************************
*Process variation:
**.lib "sm141064.ngspice" statistical
*.param sw_stat_global=1
*.param sw_stat_mismatch=0
*.param mc_skew = 3
*.param res_mc_skew = 3
*.param cap_mc_skew = 3
*.param fnoicor = 0
*Note you need to comment or remove .include design.ngspice
************************************************
*Mismatch
*.lib "sm141064.ngspice" typical
*.param sw_stat_global=1
*.param sw_stat_mismatch=1
*.param mc_skew = 3
*.param res_mc_skew = 3
*.param cap_mc_skew = 3
*.param fnoicor = 0
*Note you need to comment or remove .include design.ngspice
************************************************
*Modified by Adan Torralba
*
* 2026/08/11 Initial Release
*
***********************************************
*Transistor definitions with perimeter and area calculations

.subckt xnfet_03v3 D G S B
.param l=0.28u w=2u m=1 nf=1
.param ad='int((nf+1)/2) * W/nf * 0.18u'
.param pd='int((nf+1)/2) * W/nf * 0.18u'
.param as=int((nf+2)/2) * W/nf * 0.18u
.param ps=int((nf+2)/2) * W/nf * 0.18u
.param nrd='0.18u / W' nrs='0.18u / W'
X1 D G S B nfet_03v3 l='l' w='w' ad='ad' as='as' pd='pd' ps='ps' m='m' nrd='nrd' nrs='nrs'
.ends

.subckt xpfet_03v3 D G S B
.param l=0.28u w=2u m=1 nf=1
.param ad='int((nf+1)/2) * W/nf * 0.18u'
.param pd='int((nf+1)/2) * W/nf * 0.18u'
.param as=int((nf+2)/2) * W/nf * 0.18u
.param ps=int((nf+2)/2) * W/nf * 0.18u
.param nrd='0.18u / W' nrs='0.18u / W'
X1 D G S B pfet_03v3 l='l' w='w' ad='ad' as='as' pd='pd' ps='ps' m='m' nrd='nrd' nrs='nrs'
.ends

.subckt xnfet_05v0 D G S B
.param l=0.6u w=2u m=1 nf=1
.param ad='int((nf+1)/2) * W/nf * 0.18u'
.param pd='int((nf+1)/2) * W/nf * 0.18u'
.param as=int((nf+2)/2) * W/nf * 0.18u
.param ps=int((nf+2)/2) * W/nf * 0.18u
.param nrd='0.18u / W' nrs='0.18u / W'
X1 D G S B nfet_05v0 l='l' w='w' ad='ad' as='as' pd='pd' ps='ps' m='m' nrd='nrd' nrs='nrs'
.ends

.subckt xpfet_05v0 D G S B
.param l=0.5u w=2u m=1 nf=1
.param ad='int((nf+1)/2) * W/nf * 0.18u'
.param pd='int((nf+1)/2) * W/nf * 0.18u'
.param as=int((nf+2)/2) * W/nf * 0.18u
.param ps=int((nf+2)/2) * W/nf * 0.18u
.param nrd='0.18u / W' nrs='0.18u / W'
X1 D G S B pfet_05v0 l='l' w='w' ad='ad' as='as' pd='pd' ps='ps' m='m' nrd='nrd' nrs='nrs'
.ends


.subckt xnfet_06v0 D G S B
.param l=0.7u w=2u m=1 nf=1
.param ad='int((nf+1)/2) * W/nf * 0.18u'
.param pd='int((nf+1)/2) * W/nf * 0.18u'
.param as=int((nf+2)/2) * W/nf * 0.18u
.param ps=int((nf+2)/2) * W/nf * 0.18u
.param nrd='0.18u / W' nrs='0.18u / W'
X1 D G S B nfet_06v0 l='l' w='w' ad='ad' as='as' pd='pd' ps='ps' m='m' nrd='nrd' nrs='nrs'
.ends

.subckt xpfet_06v0 D G S B
.param l=0.55u w=2u m=1 nf=1
.param ad='int((nf+1)/2) * W/nf * 0.18u'
.param pd='int((nf+1)/2) * W/nf * 0.18u'
.param as=int((nf+2)/2) * W/nf * 0.18u
.param ps=int((nf+2)/2) * W/nf * 0.18u
.param nrd='0.18u / W' nrs='0.18u / W'
X1 D G S B pfet_06v0 l='l' w='w' ad='ad' as='as' pd='pd' ps='ps' m='m' nrd='nrd' nrs='nrs'
.ends